US09301951B2
Intermediate 17b: N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(bis(2-methoxyethyl)-amino)phenyl)isonicotinamide
Into a 50-mL round bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(5-(bis(2-methoxyethyl)amino)-2-nitrophenyl)-isonicotinamide (270 mg, 0.51 mmol, 1.00 equiv) in methanol (10 mL). The solution was treated with Pd/C (300 mg), and stirred under an atmosphere of hydrogen for 2 h at room temperature in a water bath. The solids were filtered out. The resulting mixture was concentrated under vacuum to yield 180 mg (71%) of product as a yellow to green oil.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(5-(bis(2-methoxyethyl)amino)-2-nitrophenyl)-isonicotinamide | 0.51 mmol, 270 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CCOC)CCOC)[N+](=O)[O-])=O)C=CC1)(F)F | C26H27F3N4O5
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(bis(2-methoxyethyl)-amino)phenyl)isonicotinamide | 180 mg, 71% | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CCOC)CCOC)N)=O)C=CC1)(F)F | C26H29F3N4O3
